US07947834B2
0.2 g of 4-nitrophenyl 2,3-dihydro-4H-1,4-benzoxazine-4-carboxylate, 0.1 g of 3-(pyrrolidin-3-yl)pyridine and 1.5 ml of water are introduced into a 10 ml glass tube. The tube is sealed and then heated at 100° C. under microwave irradiation for 35 minutes. Dichloromethane is added. The organic phase is dried over magnesium sulfate and the solvent is evaporated under reduced pressure. The residue is chromatographed on silica gel with a dichloromethane/methanol gradient from 1/0 to 95/5. 0.19 g of 4-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-3,4-dihydro-2H-1,4-benzoxazine is obtained.

reactant | 4-nitrophenyl 2,3-dihydro-4H-1,4-benzoxazine-4-carboxylate | 0.2 g | O1CCN(C2=C1C=CC=C2)C(=O)OC2=CC=C(C=C2)[N+](=O)[O-] | C15H12N2O5
reactant | 3-(pyrrolidin-3-yl)pyridine | 0.1 g | N1CC(CC1)C=1C=NC=CC1 | C9H12N2
reactant | water | 1.5 ml | O | H2O
solvent | Dichloromethane | ClCCl | CH2Cl2
product | 4-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-3,4-dihydro-2H-1,4-benzoxazine | 0.19 g | N1=CC(=CC=C1)C1CN(CC1)C(=O)N1CCOC2=C1C=CC=C2 | C18H19N3O2
